Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left chest/upper abdominal pain 
 
Major Surgical or Invasive Procedure:
Coronary angiogram via right radial artery ___, no 
intervention 

 
History of Present Illness:
___ with no cardiac medical history presented to ED ___ with 
complaints of left sided chest/upper abdominal pain x 3 days 
intermittently. He described sharp, needle-like, shooting type 
pains and stated there was no association of the pain with any 
movement/activity, position or eating/drinking. He had just been 
seen in urology for a routine follow up, then presented to the 
emergency department on his own. 
 
Past Medical History:
Elevated PSA, urology recommending repeat prostate biopsy 
 
Social History:
___
Family History:
No known FH of early CAD or sudden death 

 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS- HR 86, BP 136/92, RR 18, O2 97% RA 
Gen: Alert, oriented, no acute distress 
Neuro: Moving all extremities with equal strength, speech is
clear, no facial droop
CV: Regular rate/rhythm, no murmur 
Resp: LS clear bilaterally, breathing is non-labored 
Abd: Soft, non-tender, +BS 
Extrem: BLE warm/well-perfused
Right radial TR band in place without evidence of bleeding or
hematoma 

Day of discharge Physical Exam: 
98.8, 109/67, 82, 20, 97% RA 
Gen- Alert, no acute distress 
CV- RRR, no murmurs/rubs/gallops 
Resp- CTA bilat, non-labored 
Abd- Soft, non-tender 
Extrem- BLE warm/well-perfused, no edema 
Skin- +erythematous papules noted to the left lower abdomen 
extending laterally to left side, scattered vesicles present, no 
drainage or underlying signs of superimposed bacterial infection 
including swelling or lymphangitic streaking. 

 
Pertinent Results:
ECHO ___: The left atrial volume index is normal. Normal 
left ventricular wall thickness, cavity size, and 
regional/global systolic function (3D LVEF = 62 %). Global 
longitudinal strain is normal (-19.5%). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve leaflets are mildly thickened. 
No mitral regurgitation is seen. The pulmonary artery systolic 
pressure could not be determined. There is no pericardial 
effusion. 

 IMPRESSION: 1) Normal regional/global systolic function.

STRESS ECHO ___:  No anginal type symptoms or ischemic EKG 
changes at a high cardiac demand and average functional 
capacity.  

The patient exercised for 10 minutes and 30 seconds according to 
a Modified ___ treadmill protocol ___ METS) reaching a peak 
heart rate of 176 bpm and a peak blood pressure of 186/82mmHg. 
The test was stopped because of fatigue. This level of exercise 
represents an average exercise tolerance for age and gender. In 
response to stress, the ECG showed no ST-T wave changes (see 
exercise report for details). There is normal resting blood 
pressure with normal blood pressure and heart rate responses to 
stress. 
 .
 Resting images were acquired at a heart rate of 88 bpm and a 
blood pressure of 128/80 mmHg. These demonstrated normal 
regional and global left ventricular systolic function. Right 
ventricular free wall motion is normal. Doppler demonstrated no 
aortic stenosis, aortic regurgitation or significant mitral 
regurgitation or resting LVOT gradient. .

 Echo images were acquired within 65 seconds after peak stress 
at heart rates of 164 - 148 bpm. These demonstrated appropriate 
augmentation of all left ventricular segments with slight 
decrease in cavity size. There was augmentation of right 
ventricular free wall motion. 

 IMPRESSION: Average functional exercise capacity for age and 
gender. No ECG or 2D echocardiographic evidence of inducible 
ischemia to achieved workload. Normal hemodynamic response to 
exercise. 

ABDOMINAL ULTRASOUND ___: 
  
LIVER: The liver is diffusely echogenic.  There is an element of 
nodularity to the liver parenchyma, although this is equivocal.  
There is a small cyst in the left lobe of the liver measuring up 
to 6 mm.  An additional lesion in the right lobe of the liver is 
not entirely cystic and measures up to 7 mm.  The main portal 
vein is patent with hepatopetal flow.  There is no ascites. 
  
BILE DUCTS: There is no intrahepatic biliary dilation.  The CHD 
measures 2 mm. 
  
GALLBLADDER: There is no evidence of stones or gallbladder wall 
thickening. 
  
PANCREAS: The imaged portion of the pancreas appears within 
normal limits, 
without masses or pancreatic ductal dilation, with portions of 
the pancreatic tail obscured by overlying bowel gas. 
  
SPLEEN: Normal echogenicity, measuring 10 cm. 
  
KIDNEYS: The right kidney measures 10.5 cm.  The left kidney 
measures 11.5 cm. Normal cortical echogenicity and 
corticomedullary differentiation is seen bilaterally.  There is 
no evidence of masses, stones, or hydronephrosis in the kidneys. 

  
RETROPERITONEUM:  The visualized portions of aorta and IVC are 
within normal limits. 
  
IMPRESSION: 
1. Echogenic liver consistent with steatosis. Other forms of 
liver disease 
including steatohepatitis, hepatic fibrosis, or cirrhosis cannot 
be excluded on the basis of this examination.  There is 
equivocal nodularity of the liver. No ascites. 
2. 7 mm lesion of the right lobe of the liver is not entirely 
cystic.  There is a 6 mm cyst on the left lobe of the liver.  If 
clinically indicated, further evaluation small lesion in the 
right lobe of the liver can be considered with additional 
cross-sectional imaging. 
3. Normal spleen. 
4. No etiology identified for left upper quadrant pain. 
  
RECOMMENDATION(S):  If clinically indicated, consider 
cross-sectional imaging for further evaluation of small lesion 
in the right lobe of the liver. 

LABS 

___ 06:40PM BLOOD WBC-8.7 RBC-4.90 Hgb-14.4 Hct-42.4 MCV-87 
MCH-29.4 MCHC-34.0 RDW-13.0 RDWSD-40.8 Plt ___
___ 11:57AM BLOOD ___ 06:40PM BLOOD Glucose-120* UreaN-11 Creat-0.8 Na-144 
K-4.4 Cl-105 HCO3-24 AnGap-15
___ 11:57AM BLOOD Lipase-43
___ 11:57AM BLOOD cTropnT-<0.01
___ 06:40PM BLOOD cTropnT-<0.01
___ 06:40PM BLOOD Mg-2.5
___ 11:57AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
___ with no cardiac medical history presented to ED ___ with 
"chest pain" which later is described more as left upper 
abdominal pain/left sided torso pain. Due to transient ST 
elevations V1-V3 while in ED, a code STEMI was called and he was 
sent to the cath lab where his angiogram showed clean 
coronaries. 

The following day ___ he was given Maalox which he confirmed 
improved his pain. 
He underwent Echocardiogram showing normal regional/global 
systolic function, and later a stress echo to r/o coronary 
vasospasm which showed no anginal type symptoms or ischemic EKG 
changes at a high cardiac demand and average functional 
capacity.   

GI was consulted for concern of gastric/epigastric etiology of 
pain, however as noted below, the next morning the patient's 
rash presented indicating herpes zoster as etiology of pain. 
(H. Pylori pending, please follow up results in case of 
incidental finding.) 
Guaiac negative  
Abdominal Ultrasound was done, see full report for details. 

On the morning of ___, an erythematous rash was noted to the 
left lower abdomen in the T12-L1 dermatome indicative of herpes 
zoster. He was started on Valacyclovir given that the rash is 
just beginning to present itself in hopes that this will help to 
prevent significant worsening of the rash. The diagnosis and 
treatment of shingles was discussed with the patient via 
___ interpreter, and he verbalized good understanding. Our 
conversation included the importance of keeping the rash covered 
while in public, and using caution around anyone that may not 
have had chicken pox or the varicella vaccine, immune 
compromised individuals, and pregnant women. Because he works as 
a ___, we advised him to not return to work until cleared to do 
so by his PCP during follow up. 

Transitional issues for follow up include: 
1. Herpes Zoster - may need to consider gabapentin or 
alternative if pain worsens and/or concern for postherpetic 
neuralgia. 

2. Liver, incidental finding: small lesion in the right lobe of 
the liver, and steatosis. See report for details. 

3. H. Pylori was sent and pending at time of discharge, please 
follow result. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Tamsulosin 0.4 mg PO DAILY 
(was not taking consistently at home) 
 
Discharge Medications:
1.  OxyCODONE--Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN 
BREAKTHROUGH PAIN 
do not work or drive while taking this medication   
2.  ValACYclovir 1000 mg PO TID Duration: 7 Days  
3.  Finasteride 5 mg PO DAILY  
4.  Tamsulosin 0.4 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Herpes Zoster 

 
Discharge Condition:
Day of discharge Physical Exam: 
98.8, 109/67, 82, 20, 97% RA 
Gen- Alert, no acute distress 
CV- RRR, no murmurs/rubs/gallops 
Resp- CTA bilat, non-labored 
Abd- Soft, non-tender 
Extrem- BLE warm/well-perfused, no edema 
Skin- +erythematous papules noted to the left lower abdomen 
extending laterally to left side, scattered vesicles present, no 
drainage or underlying signs of superimposed bacterial infection 
including swelling or lymphangitic streaking. 

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for further evaluation of chest pain and you 
had a coronary angiogram which did not show blockages in the 
arteries in your heart. You had a cardiac stress test and 
echocardiogram to further evaluate your heart which did not show 
abnormalities. 

You developed a rash to your left lower abdomen that indicates 
that you have Shingles as we discussed. We started you on an 
antiviral medication (Valacyclovir) that can sometimes help to 
prevent worsening of the rash, however there is no specific 
treatment that makes this go away. 

You were also prescribed a pain medication that you can take if 
needed for severe pain if Tylenol or Ibuprofen does not control 
your pain well enough. Please do not take if driving or working, 
because these types of pain medications can cause drowsiness and 
impairment. 
 
We also talked about the importance of keeping the rash covered 
while you are in public because it can be spread to people who 
either have not had the chicken pox virus as a child, or a 
person with a compromised immune system. You should also avoid 
contact with pregnant females while you have the rash. If 
someone had chicken pox as a child or was vaccinated with the 
varicella vaccine, it is unlikely that they would contract the 
virus from you. 

You should not return to work until you are cleared by your 
doctor to go back. 

Please continue your home medications (Finasteride and 
Tamsulosin) as prescribed by your urologist. It is very 
important that you take your medications to help with your 
urinary difficulties. 
 
Please follow up with your primary care doctor as we discussed. 
We were unable to make this appointment because the office is 
closed today for ___ New Year. Please call them ___ to 
arrange a follow up appointment to be seen within the next 2 
weeks. 

 
Followup Instructions:
___